US09428470B2
E) tert-Butyl 3-(5-(benzyloxy)-2-methylphenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate
A mixture of 3-(5-(benzyloxy)-2-methylphenyl)-5-(carboxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid (6.30 g), 1,1-di-tert-butoxy-N,N-dimethylmethanamine (27.7 g), and toluene (60 mL) was heated to reflux for 45 minutes. The reaction mixture was concentrated under reduced pressure, and then, the residue was purified by silica gel column chromatography (ethyl acetate/hexane, subsequently methanol/ethyl acetate) to obtain the title compound (3.93 g).

reactant | 3-(5-(benzyloxy)-2-methylphenyl)-5-(carboxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid | 6.30 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(C(=O)O)CC(=O)O)C | C20H19NO6
reactant | 1,1-di-tert-butoxy-N,N-dimethylmethanamine | 27.7 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 3-(5-(benzyloxy)-2-methylphenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 3.93 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)C | C28H35NO6
